US08114877B2
AB2) C,C-Bis-(4-methoxy-phenyl)-methylamine
Bis-(4-methoxy-phenyl)-methanone oxime (20 g, 77.82 mmol) is suspended in ammonia (450 mL) and ethanol (90 mL). Ammonium acetate (3.00 g, 38.91 mmol) is added followed by the portion-wise addition of zinc dust (25.29 g, 389.1 mmol). Once the addition is complete the reaction mixture is slowly heated to 50° C. When the effervescence has ceased the reaction mixture is refluxed for 4 hours. The reaction mixture is allowed to cool and ethyl acetate is added (250 mL). The reaction mixture is filtered through Celite® and the phases are separated. The organic layer dried is over MgSO4, filtered and the solvent removed in vacuo to give the title compound. 1H nmr (CDCl3, 400 MHz); 7.25 (d, 4H), 6.80 (d, 4H), 5.10 (s, 1H), 3.75 (s, 6H).

reactant | Bis-(4-methoxy-phenyl)-methanone oxime | 77.82 mmol, 20 g | COC1=CC=C(C=C1)C(=NO)C1=CC=C(C=C1)OC | C15H15NO3
reactant | Ammonium acetate | 38.91 mmol, 3.00 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonia | 450 mL | N | H3N
solvent | ethanol | 90 mL | C(C)O | C2H6O
catalyst | zinc | 389.1 mmol, 25.29 g | [Zn] | Zn
product | C,C-Bis-(4-methoxy-phenyl)-methylamine | COC1=CC=C(C=C1)C(C1=CC=C(C=C1)OC)N | C15H17NO2
